US04831029
8-Benzyl-2-morpholino-6,7,8,9-tetrahydro-pyrido[3,4-d]-1,2,4-triazolo[1,5-a]pyrimidine-5(10H)-one
A mixture of 50.8 g (0.3 mole) of 5-amino-3-morpholino-1H-1,2,4-triazole, 89.3 g (0.3 mole) of 1-benzyl-4-carbethoxy-3-oxo-piperidine-hydrochloride and 220 ml of acetic acid is refluxed for 7 hours under stirring. The reaction mixture is allowed to stand overnight, the precipitate is filtered and washed with acetone. The product thus obtained is dissolved in a mixture of 400 ml of water and 100 ml of pyridine under heating to boiling for 15 minutes. The solution is allowed to stand for a day, the precipitated crystals are filtered and washed with acetone. The product thus obtained (83.9 g) is dissolved in 260 ml of hot pyridine, to the solution 1000 ml of acetone are added. The precipitated crystals are filtered and washed with acetone. Thus 78.9 g of the desired compound are obtained, yield 72%, m.p.: 315°-317° C.

reactant | 5-amino-3-morpholino-1H-1,2,4-triazole | 0.3 mole, 50.8 g | NC1=NC(=NN1)N1CCOCC1 | C6H11N5O
reactant | 1-benzyl-4-carbethoxy-3-oxo-piperidine-hydrochloride | 0.3 mole, 89.3 g | Cl.C(C1=CC=CC=C1)N1CC(C(CC1)C(=O)OCC)=O
reactant | acetic acid | 220 ml | C(C)(=O)O | C2H4O2
reactant | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
reactant | pyridine | 260 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 400 ml | O | H2O
solvent | acetone | 1000 ml | CC(=O)C | C3H6O
product | 8-Benzyl-2-morpholino-6,7,8,9-tetrahydro-pyrido[3,4-d]-1,2,4-triazolo[1,5-a]pyrimidine-5(10H)-one | 78.9 g, yield 72% | C(C1=CC=CC=C1)C1CNC(C=2N=C3N(CC21)NC(=N3)N3CCOCC3)=O | C19H22N6O2
